US04820866
1,3-bis-(4-nitrophenoxy)-2,2-diethylpropane
132 g (1 mol) 2,2-diethyl-1,3-dihydroxypropane, 346.5 g (2.2 mols) 4-nitrochlorobenzene and 140 g powdered sodium hydroxide were reacted in the same manner as was described in Example 1 in 600 ml DMSO.

reactant | 2,2-diethyl-1,3-dihydroxypropane | 1 mol, 132 g | C(C)C(CO)(CO)CC | C7H16O2
reactant | 4-nitrochlorobenzene | 2.2 mols, 346.5 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,3-bis-(4-nitrophenoxy)-2,2-diethylpropane | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(CC)CC)C=C1 | C19H22N2O6
